US08470859B2
1-(3-chlorobenzyl)-5-cyano-2-imino-1,2-dihydropyridine-3-carboxamide hydrobromide
To a solution of 2-amino-5-cyanonicotinamide (0.15 g) in N,N-dimethylformamide (3 ml) was added 3-chlorobenzylbromide (0.29 g), and the mixture was stirred at 100° C. for 8 hr. The reaction mixture was diluted with ethyl acetate. The precipitate was filtered and washed with ethyl acetate. The obtained precipitate was recrystallized from methanol-ethyl acetate to give the title compound (0.09 g).

reactant | 2-amino-5-cyanonicotinamide | 0.15 g | NC1=C(C(=O)N)C=C(C=N1)C#N | C7H6N4O
reactant | 3-chlorobenzylbromide | 0.29 g | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-chlorobenzyl)-5-cyano-2-imino-1,2-dihydropyridine-3-carboxamide hydrobromide | 0.09 g | Br.ClC=1C=C(CN2C(C(=CC(=C2)C#N)C(=O)N)=N)C=CC1 | InChI=1S/C14H11ClN4O.BrH/c15-11-3-1-2-9(4-11)7-19-8-10(6-16)5-12(13(19)17)14(18)20;/h1-5,8,17H,7H2,(H2,18,20);1H
